US06878722B2
To the mixture of spiro[2.2]pentane-1,1-dicarboxylic acid dimethyl ester 800 mg (4.3 mmol) in 8 mL of MeOH and 2 mL of water was added KOH (240 mg, 4.3 mmol). This solution was stirred at rt for 2 days. It was then acidified with dilute HCl to pH 3 and extracted two times with ether. The combined organic phases were dried (MgSO4) and concentrated to yield 600 mg (82%) of spiro[2.2]pentane-1,1-dicarboxylic acid methyl ester as a white solid. 1H NMR (300 MHz, CDCl3) δ 3.82 (s, 6H), 2.35 (d, 1H, J=3 Hz), 2.26 (d, 1H, J=3 Hz), 1.20 (m, 1H), 1.15 (m, 1H), 1.11 (m, 1H), 1.05 (m, 1H). LRMS: MS m/z 169 (M+−1).

reactant | spiro[2.2]pentane-1,1-dicarboxylic acid dimethyl ester | 4.3 mmol, 800 mg | COC(=O)C1(CC12CC2)C(=O)OC | C9H12O4
reactant | KOH | 4.3 mmol, 240 mg | [OH-].[K+]
reactant | HCl | Cl | ClH
solvent | MeOH | 8 mL | CO | CH4O
solvent | water | 2 mL | O | H2O
product | spiro[2.2]pentane-1,1-dicarboxylic acid methyl ester | 600 mg, 82% | COC(=O)C1(CC12CC2)C(=O)O | C8H10O4
